US04418208
2,2'-[[2-[(3-bromo-2,4,6-trimethylphenyl)amino]-2-oxoethyl]imino]bisacetic acid
A suspension of 9.56 g of nitrilotriacetic acid in pyridine (dried over molecular sieves) is prepared with the exclusion of moisture (CaSO4 drying tube) and heated to 50° C. Acetic anhydride (5.11 g) is added dropwise. The reaction mixture clears and is heated to 100° C. After maintaining the temperature for 40 minutes, the reaction mixture is cooled to 55° C. and a solution of 10.7 g 3-bromo-2,4,6-trimethylaniline in 25 ml of dry pyridine is added slowly. The reaction is heated to 100° C. and after 1.5 hours at this temperature, the solution is cooled in an ice-bath. The reaction mixture is rotary evaporated to a semisolid which is dissolved in 125 ml of 10% sodium hydroxide w/v. The basic layer is then extracted with two 100 ml portions of methylene chloride. Distilled water (100 ml) is added to the basic layer which is then brought to pH 3 with concentrated hydrochloric acid to give a precipitate. After refrigeration for about 16 hours, the crude product is filtered, washed with cold distilled water and dried under vacuum at 40° C. The crude product is dissolved in 100 ml of 60% aqueous ethanol, treated with 3.0 g of Darco and filtered hot through a Hyflo-bed to give a solution. Crystals precipitate and are filtered, washed with three 25 ml portions of 50% aqueous ethanol and dried under vacuum at 40° C. The reaction yields 9.1 g of the title compound, melting point 198°-200° C., dec.

reactant | nitrilotriacetic acid | 9.56 g | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
reactant | Acetic anhydride | 5.11 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-bromo-2,4,6-trimethylaniline | 10.7 g | BrC=1C(=C(N)C(=CC1C)C)C | C9H12BrN
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 2,2'-[[2-[(3-bromo-2,4,6-trimethylphenyl)amino]-2-oxoethyl]imino]bisacetic acid | 9.1 g | BrC=1C(=C(C(=CC1C)C)NC(CN(CC(=O)O)CC(=O)O)=O)C | C15H19BrN2O5
